Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
___: Coronary angiogram with ___ 
 
History of Present Illness:
Mr. ___ is a ___ year old man w/ PMH HTN, HLD, pre-DMII, OSA 
who presents with chest pain.

He woke up on the morning of admission at 0800 and noticed left 
sided CP with associated L arm numbness and nausea but no 
dyspnea. Later developed some diaphoresis as well. He also 
described the symptoms as vague and at one point thought this 
was in indigestion. However, he then walked upstairs and noticed 
that he really felt unwell and told his wife to call the 
ambulance.

He presented to ___ where ECG showed ___levations in leads 
I and aVL. Trop I was 0.05 with increase to 0.26. Pain improved 
from ___ to ___ with nitroglycerin x3 so he was started on 
nitroglycerin gtt and heparin gtt. He was also given ASA 325 mg.

Upon arrival to ED, initial vitals: pain ___ | 96.5 | 78 | 
128/72 | 14 | 95%/RA. 
- Labs notable for troponin-T 0.16. 
- Heparin gtt., atorvastatin 80 mg, APAP and nitroglycerin gtt. 
were started.

Decision was made to take him for cardiac cath.

In cath, he had 80% mid to ___ LAD lesion. DES placed in LAD. 
Right radial access. Loaded with Plavix 600 mg and then sent to 
the floor.

Upon arrival to the floor, he reports that his pain is gone. He 
feels well, denies SOB, indigestion, nausea, diaphoresis. He is 
asking for his CPAP tonight. He denies history of CAD.

 
Past Medical History:
- Obstructive sleep apnea
- Obesity
- Asthma
- Hypertension
- Meralgia paresthetica
- Impaired glucose tolerance
- Erectile dysfunction 
- ___

 
Social History:
___
Family History:
mother - coronary artery disease, hypertension 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
VITALS - AF, 120s/70s, 70s, 100% on RA
GENERAL - well-appearing overweight man in NAD
HEENT - EOMI. PERLLA. No lymphadenopathy.
NECK - supple, no JVD appreciated
CARDIAC - Normal S1, S2. No r/m/g.
LUNGS - CTAB
ABDOMEN - soft, NTND.
EXTREMITIES - wwp, no edema.
SKIN - no rashes appreciated
NEUROLOGIC - AAOX3, moving all extremities.

DISCHARGE PHYSICAL EXAM:
=========================
VS: T 98.3 BP 134/84 (120-150s/60-80s) HR 66 (60-80s) O2 Sat 92% 
RA
GENERAL: obese man, lying comfortably in bed, alert and awake, 
in NAD
HEENT: EOMI, MMM, OP clear, no xanthalemas
NECK: supple, unable to appreciate JVD.
CARDIAC: RRR, normal s1/s2, no r/m/g.
LUNGS: CTAB, no wheezes, rhonchi, or crackles
ABDOMEN: +BS, soft, NTND, no rebound or guarding
EXTREMITIES: WWP, no peripheral edema, no cyanosis/clubbing
SKIN: No venous dermatitis, no rashes

 
Pertinent Results:
ADMISSION LABS:
================
___ 02:00PM BLOOD WBC-10.0 RBC-5.11 Hgb-14.6 Hct-43.5 
MCV-85 MCH-28.6 MCHC-33.6 RDW-13.4 RDWSD-41.8 Plt ___
___ 02:00PM BLOOD Neuts-86.8* Lymphs-9.4* Monos-2.5* 
Eos-0.2* Baso-0.4 Im ___ AbsNeut-8.69* AbsLymp-0.94* 
AbsMono-0.25 AbsEos-0.02* AbsBaso-0.04
___ 02:00PM BLOOD ___ PTT-106.6* ___
___ 02:00PM BLOOD Glucose-123* UreaN-19 Creat-1.0 Na-140 
K-4.3 Cl-104 HCO3-24 AnGap-16
___ 02:00PM BLOOD ALT-22 AST-26 AlkPhos-75 TotBili-0.2
___ 02:00PM BLOOD CK-MB-7 cTropnT-0.16*
___ 02:00PM BLOOD Albumin-4.1

NOTABLE LABS:
=============
___ 02:00PM BLOOD CK-MB-7 cTropnT-0.16*
___ 11:55PM BLOOD cTropnT-0.36*
___ 04:52AM BLOOD cTropnT-0.39*

DISCHARGE LABS:
==============
___ 05:10AM BLOOD Glucose-95 UreaN-17 Creat-1.1 Na-142 
K-4.0 Cl-103 HCO3-29 AnGap-14
___ 05:10AM BLOOD Calcium-8.9 Phos-3.8 Mg-2.0

IMAGING:
=========
___ Cardiovascular ECHO 
The left atrium is mildly dilated. No atrial septal defect is 
seen by 2D or color Doppler. The estimated right atrial pressure 
is ___ mmHg. There is mild symmetric left ventricular 
hypertrophy with normal cavity size and regional/global systolic 
function (LVEF>70%). Tissue Doppler imaging suggests a normal 
left ventricular filling pressure (PCWP<12mmHg). Right 
ventricular chamber size and free wall motion are normal. The 
diameters of aorta at the sinus, ascending and arch levels are 
normal. The aortic valve leaflets (3) appear structurally normal 
with good leaflet excursion and no aortic stenosis or aortic 
regurgitation. The mitral valve leaflets are structurally 
normal. There is no mitral valve prolapse. No mitral 
regurgitation is seen. The pulmonary artery systolic pressure 
could not be determined. There is an anterior space which most 
likely represents a prominent fat pad. 

IMPRESSION: Normal biventricular chamber size and 
global/regional systolic function. No pathologic valvular flow.  


REPORTS:
========
Cardiac Angiography ___:
Coronary Anatomy
Dominance: Right
* Left Main Coronary Artery
The LMCA is normal.
* Left Anterior Descending
The LAD has a highly eccentric and hazy 85% stenosis in the 
proximal segment. There is mild luminal
irregularity distally.
* Circumflex
The Circumflex has tandem 40% stenoses in the mid segment.
* Right Coronary Artery
The RCA is a large caliber, mildly ectatic vessel with mild 
luminal irregularities.

Impressions:
1 vessel CAD.
Successful PTCA/stent of proximal LAD using drug-eluting stent.
 
Brief Hospital Course:
Mr. ___ is a ___ year old man w/ PMH HTN, HLD, pre-DMII, OSA 
who presented with chest pain with elevated troponins, on cath 
found to have 80% occlusion of mid to ___ LAD, s/p DES.

# NSTEMI: He presented with chest pain to an OSH, with rising 
troponin and EKG changes (ST changes in I and aVL). He was 
started on nitroglycerin gtt and heparin gtt, and given 325 mg 
aspirin. He was then transferred to ___ for cardiac 
catheterization which showed 80% mid to ___ LAD lesion s/p 1 
DES. He was loaded with Plavix and started on aspirin, 
atorvastatin, metoprolol, and lisinopril. TTE showed normal EF, 
no wall motion abnormalities.

CHRONIC ISSUES:
# HYPERTENSION: Started on lisinopril prior to discharge. Was 
previously not on any medications.

#Pre-DMII/Obesity: HA1C 6.1% in ___. Not currently on any 
medications for this. Was taking supplements for the past week 
or so to help lose weight.

TRANSITIONAL ISSUES:
- New medications: Aspirin 81 mg, Plavix 75 mg, Atorvastatin 80 
mg, Metoprolol Succinate 25 mg daily, Lisinopril 5 mg, 
Sublingual nitroglycerin as needed
- Held medications: Sildenafil, herbal supplements

- Patient needs follow up with PCP and cardiologist
- Adjust Lisinopril as needed for BP control.
- Adjust Metoprolol as needed for HR control and reduction of 
angina symptoms.
- Patient should be set up with cardiac rehab.
# CONTACT: ___ (wife) ___
# CODE: Full Code, confirmed
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Gabapentin 300 mg PO DAILY 
2. Garcinia Cambogia (chromium-brindal berry) 200-500 mcg-mg 
oral DAILY 
3. Glucosamine 1500 Complex (glucosamine-chondroit-vit C-Mn) 
500-400 mg oral Frequency is Unknown 
4. Sildenafil 20 mg PO PRN before sex 
5. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
2.  Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth QPM Disp #*30 Tablet 
Refills:*0 
3.  Clopidogrel 75 mg PO DAILY 
RX *clopidogrel 75 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0 
4.  Lisinopril 2.5 mg PO DAILY 
RX *lisinopril 2.5 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0 
5.  Metoprolol Succinate XL 25 mg PO DAILY 
RX *metoprolol succinate 25 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0 
6.  Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain 
RX *nitroglycerin 0.4 mg 1 tablet(s) sublingually q5min Disp 
#*30 Tablet Refills:*0 
7.  Glucosamine 1500 Complex (glucosamine-chondroit-vit C-Mn) 
500-400  mg oral DAILY  
8.  Gabapentin 300 mg PO DAILY  
9.  Multivitamins 1 TAB PO DAILY  
10. HELD- Garcinia Cambogia (chromium-brindal berry) 200-500 
mcg-mg oral DAILY  This medication was held. Do not restart 
Garcinia Cambogia until talking to your cardiologist
11. HELD- Sildenafil 20 mg PO PRN before sex  This medication 
was held. Do not restart Sildenafil until speaking with your 
doctor.

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
Non-ST elevation myocardial infarction

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It has been a pleasure taking care of you at ___.

Why was I here?
- You were admitted for a heart attack.

What was done for me here?
- You had a cardiac catheterization where a stent was placed to 
open the blockage in one of the arteries in your heart.
- You were started on medications to prevent future heart 
attacks.

What should I do when I go home?
- You should take all of your medications as prescribed.
- DO NOT stop your Plavix without talking to your cardiologist.
- DO NOT stop your aspirin without talking to your cardiologist.
- You should follow up with your primary care doctor and your 
cardiologist.

Sincerely,
Your ___ Team
 
Followup Instructions:
___